US05298563
Into a reactor equipped with a stirring means, a heating and cooling means and a pipe for supplying starting materials and having an internal capacity of 40 l, 114.7 kg of the above latex A and 2.4 kg of deionized water were charged, and at a temperature of 40° C., 87 g of acetic anhydride and 1.9 kg of deionized water were added and mixed. The mixture was stirred for about 1 minute and then left to stand for 10 minutes. Then, 63 g of sodium salt of a condensation product of β-naphthalene sulfonic acid with formaldehyde, 110 g of 48% potassium hydroxide and 880 g of deionized water were added and stirred to obtain a butadiene-styrene rubber copolymer latex containing rubber particles having the particle sizes increased. The pH of this latex was 7.4, the solid content was 29.5% by weight, and the average particle size of rubber was 0.35 μm (as measured by the same measuring method as above).

reactant | acetic anhydride | 87 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium | 63 g | [Na] | Na
reactant | β-naphthalene sulfonic acid | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
reactant | formaldehyde | C=O | CH2O
reactant | potassium hydroxide | 110 g | [OH-].[K+]
solvent | water | 880 g | O | H2O
solvent | water | 1.9 kg | O | H2O
solvent | water | 2.4 kg | O | H2O
product | butadiene-styrene rubber | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
